US07504401B2
[3-Hydroxy-5-(1H-indol-4-yl)-phenyl]-(6-hydroxymethyl-pyridin-3-yl)-methanone
[3-Bromo-5-(4-methoxy-benzyloxy)-phenyl]-(6-methyl-pyridin-3-yl)-methanone. A 1.6 M solution of n-BuLi in hexane (1.8 mmol) was added dropwise to a stirred mixture of 1,3-dibromo-5-(4-methoxy-benzyloxy)-benzene (600 mg, 1.6 mmol) in dry ether (6 mL) at −78° C. The resulting solution was stirred at −78° C. for 30 min, and then 6-methyl-nicotinonitrile (190 mg, 1.6 mmol) in dry ether (4 mL) was added dropwise. The mixture was stirred at −78° C. for 1 h, and then the temperature was allowed to rise to 0° C. 2N HCl was added with stirring. The aqueous was then basified with 1N NaOH solution and extracted with methylene chloride three times. The combined organic phase was washed with brine, dried, and concentrated to afford the crude product which was further purified by flash chromatography (3:1 hexane/EtOAc) to yield the desired product as a yellow oil (600 mg, 90%).

reactant | [3-Bromo-5-(4-methoxy-benzyloxy)-phenyl]-(6-methyl-pyridin-3-yl)-methanone | BrC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)C(=O)C=1C=NC(=CC1)C | C21H18BrNO3
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 1.8 mmol | CCCCCC | C6H14
reactant | 1,3-dibromo-5-(4-methoxy-benzyloxy)-benzene | 1.6 mmol, 600 mg | BrC1=CC(=CC(=C1)OCC1=CC=C(C=C1)OC)Br | C14H12Br2O2
reactant | 6-methyl-nicotinonitrile | 1.6 mmol, 190 mg | CC1=NC=C(C#N)C=C1 | C7H6N2
reactant | HCl | 2N | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | ether | 6 mL | CCOCC | C4H10O
solvent | ether | 4 mL | CCOCC | C4H10O
product | [3-Hydroxy-5-(1H-indol-4-yl)-phenyl]-(6-hydroxymethyl-pyridin-3-yl)-methanone | 600 mg, 90% | OC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)C(=O)C=1C=NC(=CC1)CO | C21H16N2O3
